Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],9.17252032
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],0.2417135450499999
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],-0.8685731074709999
[H:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.06723957762
[O:1]=[C:2]/[C:9](=[C:7](/[C:5](=[C:3][H:4])[H:6])[H:8])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10],-3.47152671999
[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[H:10],2.30035371548
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],3.22179094836
[H:1][O:2][C:3]([H:4])[C:11]([C:5][O:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-1.22886969483
[O:1]=[C:2]([C:3][O:4][H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[c:2]1[c:3]([O:4][H:5])[c:6]1[C:7]([H:8])([H:9])[H:10],-4.13602825324
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.96349692571
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.99126859405
[C:2](=[C:3](\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.95497873331
[H:1][C:2]#[C:3][C@:4]1([O:5][H:6])[O:7][C:8]1[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8][H:9],1.47954580315
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5],1.49027690123
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.58560618422
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9],4.63644406072
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]#[C:9][H:10],2.38323780406
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],0.2559738937999999
[C:1][C:2](=[O:3])[O:4][C:5]#[C:6][H:7]>>[C:1]#[C:2][O:4][C:5]#[C:6][H:7].[O:3],5.1690156191500005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],4.28782780121
[C:4]([H:5])[H:6].[H:1][O:2][C:3]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.77545110385
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:10]([H:11])([H:12])[H:13],4.69322517939
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],4.8466668987
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.6392550296800006
[H:4].[O:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.44907045568
[C:10][O:11][H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12],-4.1492098685400025
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.74750097001
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:4]([H:5])#[C:6][O:7][H:8].[H:1][C:2]#[C:3],3.63510478143
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],2.07908157852
